US05948911
The reaction procedure as above wherein 3,4-methylenedioxyphenethylamine is reacted with 4-(4-chloro-5,6-dimethyl-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester yields 4-[4-(3,4-methylenedioxyphenethylamino)-5,6-dimethyl-thieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester.

reactant | 3,4-methylenedioxyphenethylamine | C1OC=2C=C(CCN)C=CC2O1 | C9H11NO2
reactant | 4-(4-chloro-5,6-dimethyl-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2C)C)Cl)=O | C16H13ClN2O2S
product | 4-[4-(3,4-methylenedioxyphenethylamino)-5,6-dimethyl-thieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2C)C)NCCC2=CC1=C(C=C2)OCO1)=O | C25H23N3O4S
